US05270309
Treatment of ethyl 7-chloro-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate (250 mg) with 2M is NAOH (1.5 ml) in DMF at room temperature for 76 h, followed by acidification with HCl, gave 7-chloro-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (222 mg), mp 282°-283° C. δ (360 MHz, DMSO-d6) 1.15 (3H, t, CH3), 3.26 (2H, q, CH2), 6.55 (1H, s, 3-H), 7.10 (1H, d, 6-H), 7.88 (1H, d, 8-H) and 11.78 (1H, bs, NH).

reactant | ethyl 7-chloro-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate | 250 mg | ClC1=CC(=C2C(C=C(NC2=C1)C(=O)OCC)=O)CC | C14H14ClNO3
reactant | HCl | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-chloro-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 222 mg | ClC1=CC(=C2C(C=C(NC2=C1)C(=O)O)=O)CC | C12H10ClNO3
